// LDO: 5T error amplifier + PMOS pass device + VA behavioral reference.
// Unity feedback, Vout = Vref = 0.55V from VDD = 1.0V.
// Analyses: dcOp, load-step transient, PSRR (ac on supply), output noise.
simulator lang=spectre
global 0
parameters VDD=0.9 VREF=0.55 ILOAD=0.5m

include "/home/zhangz/T28/toplevel_modified.scs" section=pre_simu
include "/home/zhangz/T28/toplevel_modified.scs" section=top_tt

v_vdd (VDDA 0) vsource dc=VDD mag=1 type=dc

// behavioral bandgap reference
x_ref (REF) va_vref vnom=VREF rout=10k

// 5T OTA: nch input pair, pch mirror load, nch tail mirror
i_bias (VDDA NBIAS) isource dc=20u
mn_dio (NBIAS NBIAS 0 0) nch_ulvt_mac l=200n w=2u multi=1 nf=4
mn_tail (TAIL NBIAS 0 0) nch_ulvt_mac l=200n w=4u multi=1 nf=8
// VOUT feeds the diode side: pass device inverts gate->drain, so the
// mirror side (OTAO -> pass gate) must be NON-inverting in VOUT
mn_inp (OTAX VOUT TAIL 0) nch_ulvt_mac l=100n w=8u multi=1 nf=16
mn_inn (OTAO REF TAIL 0) nch_ulvt_mac l=100n w=8u multi=1 nf=16
mp_ld1 (OTAX OTAX VDDA VDDA) pch_ulvt_mac l=200n w=4u multi=1 nf=8
mp_ld2 (OTAO OTAX VDDA VDDA) pch_ulvt_mac l=200n w=4u multi=1 nf=8

// pass device + compensation + output cap
mp_pass (VOUT OTAO VDDA VDDA) pch_ulvt_mac l=100n w=80u multi=1 nf=160
c_mil (VOUT OTAO) capacitor c=2p
c_out (VOUT 0) capacitor c=50p

// load: dc + 1.5mA step at 200ns, release at 320ns
i_dcload (VOUT 0) isource dc=ILOAD
i_step (VOUT 0) isource type=pulse val0=0 val1=1.5m delay=200n rise=1n fall=1n width=120n

simulatorOptions options temp=27 tnom=27 gmin=1e-12
dcOp dc maxiters=150 annotate=status
tran tran stop=450n maxstep=100p annotate=status
ac ac start=1k stop=1G dec=20 annotate=status
noise (VOUT 0) noise start=100 stop=100M dec=10 iprobe=v_vdd annotate=status

save VOUT OTAO REF NBIAS
saveOptions options save=selected
ahdl_include "va_vref.va"
